US04338333
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-phenyl ethanamine
The compound was prepared as in Example 1 from 1-(4-carbomethoxymethoxyphenyl)propan-2-one (4.1 g) and 2-hydroxy-2-phenylethylamine (2.53 g). The compound was purified initially by column chromatography on silica gel and crystallised as the hydrobromide salt from methanol/diethyl ether m.p. 147°-160° as a 90:10 mixture of diastereoisomers.

reactant | 1-(4-carbomethoxymethoxyphenyl)propan-2-one | 4.1 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | 2-hydroxy-2-phenylethylamine | 2.53 g | OC(CN)C1=CC=CC=C1 | C8H11NO
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-phenyl ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)O | C20H25NO4
